US08431607B2
(S)-3-(3-(4-chlorophenyl)-2-oxo-4-(3-(trifluoromethyl)phenyl)-imidazolidin-1-yl)-N′-hydroxypropanimidamide (28.7 mg, 0.067 mmol) is dissolved in dichloromethane (2 mL). Cyclohexanecarbonyl chloride (14.8 mg, 0.10 mmol) and diisopropyl ethylamine (26.3 mg, 0.20 mmol) are then added. The reaction is stirred for 3 h at room temperature. The reaction is diluted with ethyl acetate followed by quenching with sat. sodium bicarbonate solution. The organic layer is washed with brine and dried with MgSO4. The solvents is removed under vacuum to afford crude (S)-3-(3-(4-chlorophenyl)-2-oxo-4-(3-(trifluoromethyl)phenyl)imidazolidin-1-yl)-N′-(cyclohexanecarbonyloxy)propanimidamide which is used directly in the next step without further purification. HPLC-MS calculated for C26H29ClF3N4O3 (M+H+) 537.1, found 537.1.

reactant | (S)-3-(3-(4-chlorophenyl)-2-oxo-4-(3-(trifluoromethyl)phenyl)-imidazolidin-1-yl)-N′-hydroxypropanimidamide | 0.067 mmol, 28.7 mg | ClC1=CC=C(C=C1)N1C(N(C[C@@H]1C1=CC(=CC=C1)C(F)(F)F)CCC(N)=NO)=O | C19H18ClF3N4O2
reactant | Cyclohexanecarbonyl chloride | 0.10 mmol, 14.8 mg | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | diisopropyl ethylamine | 0.20 mmol, 26.3 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-3-(3-(4-chlorophenyl)-2-oxo-4-(3-(trifluoromethyl)phenyl)imidazolidin-1-yl)-N′-(cyclohexanecarbonyloxy)propanimidamide | ClC1=CC=C(C=C1)N1C(N(C[C@@H]1C1=CC(=CC=C1)C(F)(F)F)CCC(N)=NOC(=O)C1CCCCC1)=O | C26H28ClF3N4O3
